US06693123B2
Methyl N-[4-(2-Pyrid-3-ylethyn-1-yl)-2-(2-methylphenyl)benzoyl]methionine
Methyl N-[4-(bromoethyn-1-yl)-2-(2-methylphenyl)benzoyl]methionine (200 mg, 0.43 mmol), trimethyl-3-pyridyltin (89 mg, 0.37 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (15 mg, 0.02 mmol) were heated at 80° C. for 18 h. The mixture was evaporated and chromatographed (50% ethyl acetate in hexane) to give 43 mg of the title compound. MS m/e 459 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ 1.60 (m, 1H), 1.86 (m, 1H), 2.1 (m, 8H), 3.68 (s, 3H), 4.63 (m, 1H), 5.97 (m, 1H), 7.30 (m, 6H), 7.63 (m, 1H), 7.83 (m, 1H), 7.99 (m, 1H), 8.59 (m, 1H), 8.78 (m, 1H).

reactant | Methyl N-[4-(bromoethyn-1-yl)-2-(2-methylphenyl)benzoyl]methionine | 0.43 mmol, 200 mg | CN([C@@H](CCSC)C(=O)O)C(C1=C(C=C(C=C1)C#CBr)C1=C(C=CC=C1)C)=O | C22H22BrNO3S
reactant | trimethyl-3-pyridyltin | 0.37 mmol, 89 mg | C[Sn](C=1C=NC=CC1)(C)C
reactant | dichloromethane | 0.02 mmol, 15 mg | ClCCl | CH2Cl2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl N-[4-(2-Pyrid-3-ylethyn-1-yl)-2-(2-methylphenyl)benzoyl]methionine | 43 mg | CN([C@@H](CCSC)C(=O)O)C(C1=C(C=C(C=C1)C#CC=1C=NC=CC1)C1=C(C=CC=C1)C)=O | C27H26N2O3S
